US05192785
Sulfamic acid 2-methyl-2-phenoxypropyl ester
This compound was prepared by the procedure used to synthesize 2-(4-methylphenoxy)ethanol sulfamate in Example 28. Thus, 13.2 g (0.0794 mole) of 2-methyl-2-phenoxypropanol was reacted with sulfamoyl chloride prepared from 26.5 ml (0.298 mole) of chlorosulfonyl isocyanate (98%, Aldrich), 33.9 g (0.336 mole) of triethylamine, and 5.3 g (0.294 mole) of water in 250 ml of acetonitrile. The 12.4 g of a viscous, oily residue obtained was purified by high pressure liquid chromatography (Waters Associates Prep LC/System 500A; PrePAK 500® silica; methylene chloride), then by chromatography (4.5×90 cm glass column; 500 g of silica gel; methylene chloride). Fractions containing title compound were combined and the solvent was evaporated under reduced pressure to give 5.4 g (28%) of a viscous oil.

reactant | 2-(4-methylphenoxy)ethanol sulfamate | S(N)(=O)(=O)OCCOC1=CC=C(C=C1)C | C9H13NO4S
reactant | 2-methyl-2-phenoxypropanol | 0.0794 mole, 13.2 g | CC(CO)(C)OC1=CC=CC=C1 | C10H14O2
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | chlorosulfonyl isocyanate | 0.298 mole, 26.5 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | triethylamine | 0.336 mole, 33.9 g | C(C)N(CC)CC | C6H15N
reactant | water | 0.294 mole, 5.3 g | O | H2O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | Sulfamic acid 2-methyl-2-phenoxypropyl ester | 5.4 g, 28% | CC(COS(N)(=O)=O)(C)OC1=CC=CC=C1 | C10H15NO4S
